US05008267
A solution of 21 g of 3-(4-nitrophenyl)propionyl chloride in 30 ml of chloroform was added dropwise into a mixture of 75 ml of concentrated aqueous ammonia and 75 ml of ice water. The resultant mixture was then stirred for 2 hours under ice-cooling. The resultant precipitate was collected by filtration, dried in air and recrystallized from ethyl acetate, thereby obtaining 13.7 g of 3-(4-nitrophenyl)propanamide.

reactant | 3-(4-nitrophenyl)propionyl chloride | 21 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)Cl | C9H8ClNO3
reactant | ammonia | 75 ml | N | H3N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-nitrophenyl)propanamide | 13.7 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)N | C9H10N2O3
